US04113715
N-(5-Amino-2-mercaptomethylpentanoyl)-L-tryptophane
To a solution of N-(2-acetylthiomethyl-5-aminopentanoyl)-L-tryptophane methyl ester trifluoroacetate (3 g) in methanol (60 ml) N sodium hydroxide (60 ml) is added. After four hours the solution is applied to a column of Dowex 50 ion exchange resin in the hydrogen cycle. After washing with water, the N-(5-amino-2-mercaptomethylpentanoyl)-L-tryptophane is eluted with pyridine-acetic acid buffer at pH 6.5.

reactant | N-(2-acetylthiomethyl-5-aminopentanoyl)-L-tryptophane methyl ester trifluoroacetate | 3 g | FC(C(=O)O)(F)F.COC([C@@H](NC(C(CCCN)CSC(C)=O)=O)CC1=CNC2=CC=CC=C12)=O
reactant | sodium hydroxide | 60 ml | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 60 ml | CO | CH4O
product | N-(5-Amino-2-mercaptomethylpentanoyl)-L-tryptophane | NCCCC(C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)CS | C17H23N3O3S
